US06774082B2
Preparation of 7,10,13-triazapentadecaneol
About 8 g of 7,10,13-tri-p-toluenesulfonyl-7,10,13-triazapentadecaneol was added to 3.9 g of sodium hydrogen phosphate and 66 g of sodium amalgam in 250 ml of methanol. The mixture was stirred and refluxed for 40 hours. The mixture was cooled down and was filtered. The solvent was evaporated from the filtrate and to the residue 50 ml of CH2Cl2 and 50 ml of 2N HCl was added. After shaking, the acidic layer was separated and neutralized with 20% NaOH. From the mixture, water was evaporated under reduced pressure and to the residue was added 100 ml of methylene chloride. Next the inorganic salts were filtered off. About 2.6 g of crude product was transferred to the next step without further purification. The reaction is shown below.

reactant | 7,10,13-tri-p-toluenesulfonyl-7,10,13-triazapentadecaneol | 8 g | C1(=CC=C(C=C1)S(=O)(=O)N(CCCCCCO)CCN(CCN(CC)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C33H47N3O7S3
reactant | sodium hydrogen phosphate | 3.9 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 250 ml | CO | CH4O
catalyst | sodium amalgam | 66 g | [Na].[Hg]
product | 7,10,13-triazapentadecaneol | C(CCCCCNCCNCCNCC)O | C12H29N3O
